US06906104B2
The trifluoroacetate salt of (2S,3R,4R)-2-amino-1,7-diphenyl-heptane-3,4-diol (0.1 mmol) was reacted with 3-carbamoyl-5-dipropylcarbamoyl-benzoic acid as described in method A (addition of an extra equivalent of DIEA to neutralize the amine salt) to give N1-[(1S,2R,3R)-1-benzyl-2,3-dihydroxy-6-phenylhexyl]-N3 ,N3-dipropylbenzene-1,3,5-tricarboxamide. MS (ESI+) for C34H43N3O5 m/z 574 (M+H)+.

reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | (2S,3R,4R)-2-amino-1,7-diphenyl-heptane-3,4-diol | 0.1 mmol | N[C@@H](CC1=CC=CC=C1)[C@H]([C@@H](CCCC1=CC=CC=C1)O)O | C19H25NO2
reactant | 3-carbamoyl-5-dipropylcarbamoyl-benzoic acid | C(N)(=O)C=1C=C(C(=O)O)C=C(C1)C(N(CCC)CCC)=O | C15H20N2O4
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | N1-[(1S,2R,3R)-1-benzyl-2,3-dihydroxy-6-phenylhexyl]-N3 ,N3-dipropylbenzene-1,3,5-tricarboxamide | C(C1=CC=CC=C1)[C@@H]([C@H]([C@@H](CCCC1=CC=CC=C1)O)O)NC(=O)C1=CC(=CC(=C1)C(=O)N)C(=O)N(CCC)CCC | C34H43N3O5
